US06025385
Triphosgene (1.78 g, 6 mmol) was dissolved in benzene (120 ml), followed by the addition of a solution of 4-dimethylaminopiperidine (1.96 g, 15.3 mmol) in benzene and triethylamine (1.82 g, 18 mmol). The resulting mixture was stirred overnight at room temperature. Chloroform was added to the reaction mixture, and the resulting mixture was washed with water. The organic layer was dried over anhydrous magnesium sulfate, the solvent was distilled off under reduced pressure, and the residue was then purified by chromatography on a silica gel (chloroform-acetone mixed solvent [1:2]), whereby 4-dimethylaminopiperidinocarbonyl chloride (465 mg, 16%) was obtained.

reactant | Triphosgene | 6 mmol, 1.78 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 4-dimethylaminopiperidine | 15.3 mmol, 1.96 g | CN(C1CCNCC1)C | C7H16N2
reactant | triethylamine | 18 mmol, 1.82 g | C(C)N(CC)CC | C6H15N
reactant | Chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | benzene | 120 ml | C1=CC=CC=C1 | C6H6
product | 4-dimethylaminopiperidinocarbonyl chloride | 465 mg, 16% | CN(C1CCN(CC1)C(=O)Cl)C | C8H15ClN2O
